US08754226B2
To a solution of tert-butyl piperidin-4-ylcarbamate (5.0 g, 25 mmol) and DIEA (13.0 mL, 74.9 mmol) in DMF (50 mL) was added 2-chloro-5-ethylpyrimidine (4.3 g, 30 mmol). This mixture stirred at 100° C. for 18 hours in a sealed tube. The mixture was poured into water (500 mL) and extracted into EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified over silica gel (100% EtOAc) to yield tert-butyl 1-(5-ethylpyrimidin-2-yl)piperidin-4-ylcarbamate (3.2 g, 10 mmol, 42%).

reactant | tert-butyl piperidin-4-ylcarbamate | 25 mmol, 5.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 74.9 mmol, 13.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 30 mmol, 4.3 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1-(5-ethylpyrimidin-2-yl)piperidin-4-ylcarbamate | 10 mmol, 3.2 g, 42% | C(C)C=1C=NC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H26N4O2
